US04737494
To 100 ml of acetone, 2.2 g of N-methylphenylalanine methyl ester was dissolved, and 2.0 g of 2-methylthio-1,3-dithiolium iodide was gradually added thereto under stirring at room temperature. The mixture was stirred at room temperature for 1 hour, and then concentrated under reduced pressure. The residue was dissolved in water. The aqueous layer was washed with ethyl acetate, and then water was distilled off under reduced pressure, whereby 1.7 g (yield: 52%) of N-(1,3-dithiol-2-ylidene)-N-methyl-N-(2-phenyl-1-methoxycarbonylethyl)ammonium iodide (Compound No. 5) was obtained as oily substance.

reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | N-methylphenylalanine methyl ester | 2.2 g | COC([C@@H](NC)CC1=CC=CC=C1)=O | C11H15NO2
reactant | 2-methylthio-1,3-dithiolium iodide | 2.0 g | [I-].CSC1=[S+]C=CS1
solvent | water | O | H2O
product | N-(1,3-dithiol-2-ylidene)-N-methyl-N-(2-phenyl-1-methoxycarbonylethyl)ammonium iodide | 1.7 g, yield: 52% | [I-].S1C(SC=C1)=[N+](C(CC1=CC=CC=C1)C(=O)OC)C | InChI=1S/C14H16NO2S2.HI/c1-15(14-18-8-9-19-14)12(13(16)17-2)10-11-6-4-3-5-7-11;/h3-9,12H,10H2,1-2H3;1H/q+1;/p-1
